US06933387B2
a) (4R,10aR)-4-Methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
(4R,10aR)-4-Methyl-7-trifluoromethyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole (0.64 g, 2.5 mmol) were dissolved in dichloromethane (15 mL) and di-tert-butyl dicarbonate (0.65 g, 3 mmol) dissolved in dichloromethane (2 mL) was added. The mixture was stirred for 1 h and solvent was removed in vacuo. Chromatography on silica gel (n-hexane/diethylether 6:1) yielded the title product as a colorless oil (0.86 g, 96%).

reactant | (4R,10aR)-4-Methyl-7-trifluoromethyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 2.5 mmol, 0.64 g | C[C@@H]1CNC[C@@H]2N1C=1C=C(C=CC1C2)C(F)(F)F | C13H15F3N2
reactant | di-tert-butyl dicarbonate | 3 mmol, 0.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (4R,10aR)-4-Methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.86 g, 96% | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)C(F)(F)F)[C@@H](C1)C | C18H23F3N2O2
